* ============================================================================
* BenchPod - 12 V STAGE IDLE-STATE STABILITY  (matches the v2 schematic)
* ============================================================================
* The actual implementation deselects the VMID leg to OPEN (TMUX1104 channel
* off), not to GND. R128 then dangles: the amp runs at noise gain 1 with the
* op-amp input capacitance + mux off-capacitance on the inverting node against
* 11.8k of feedback -> feedback pole -> possible ringing/marginal stability.
*
* This bench reproduces a real "deselect the 12 V range" event and then kicks
* the idle loop to measure ring-down, stepping the feedback cap:
*   step 1: CF = 0.001 pF (effectively no cap)  -> look for ringing
*   step 2: CF = 10 pF (the insurance cap)      -> should be cleanly damped
*
* Timeline:
*   0-20 us : range SELECTED, DAC code held at 3.0 V -> RF6 = 5.9*(3-2.048)
*             = +5.62 V  (also proves the 10 pF doesn't change the transfer)
*   20 us   : DESELECT - signal channel and VMID leg both open
*   35 us   : 100 uA / 200 ns kick into the inverting node -> watch ring-down
*
* Plot V(RF6), compare the two stepped traces after 20 us and around 35 us.
* Log:  iconv -f UTF-16LE -t UTF-8 benchpod_idle_stability.log | grep -iE "lvl|ring"
*
* Only one macromodel (U51B) - VMID and the DAC buffer are ideal sources here
* because the question is the diff amp's idle loop, nothing upstream.
* ============================================================================

.include OPA2992.lib

* --- rails / sources ---
V_P15  P15    0 DC 15
V_N15  N15    0 DC -15
V_VMID VMID   0 DC 2.048
V_SIG  BUFOUT 0 DC 3.0          ; buffered DAC held mid-range

* --- range select: ON until t=20us, then deselect ---
V_CTRL CTRL 0 PULSE(1 0 20u 50n 50n 1 2)

* --- TMUX1104 channels as switches, with off-capacitance on the S pins ---
S_MUX BUFOUT TO12V CTRL 0 SWAN
C_OFF1 TO12V 0 4p               ; mux CS(off) on the signal channel
S_VM  VMID  VMLEG CTRL 0 SWAN
C_OFF2 VMLEG 0 4p               ; mux CS(off) on the VMID-leg channel
.model SWAN SW(Ron=4 Roff=1G Vt=0.5 Vh=0.1)

* --- U51B difference amp (as in schematic) ---
R126 TO12V INP 2k
R127 INP   0   11.8k
R128 VMLEG INN 2k
R129 OUT   INN 11.8k
CF   OUT   INN {CF}             ; <-- the insurance cap, stepped
X_U51B INP INN P15 N15 OUT OPA2992
R135 OUT RF6 50
R_L  RF6 0 1Meg

* --- small kick into the idle loop to measure damping ---
I_KICK 0 INN PULSE(0 100u 35u 20n 20n 200n 1)

* --- analysis ---
.step param CF list 0.001p 5.1p 270p
.tran 0 60u 0 5n
.save V(RF6) V(INN) V(TO12V) V(VMLEG)
.options plotwinsize=300000

* --- measurements ---
.meas TRAN sel_lvl  AVG V(RF6) FROM 10u TO 19u   ; expect ~+5.62 in BOTH steps
.meas TRAN idle_lvl AVG V(RF6) FROM 50u TO 60u   ; expect ~0 (mV) in both
.meas TRAN ring_max MAX V(RF6) FROM 34u TO 50u   ; kick response: compare
.meas TRAN ring_min MIN V(RF6) FROM 34u TO 50u   ;   peak-to-peak per step

.end
